US05097031
catalytically hydrogenating under a pressure of 1 to 5 bar, a reaction mixture comprising lysergol and least one aprotic solvent containing a tertiary nitrogen a solvent mixture of N,N-dimethylformamide and pyridine and a 5 to 10% palladium catalyst applied on activated carbon, at a temperature between 40° C. and the boiling point of the reaction mixture, to form dihydrolysergol; and

reactant | lysergol | OC[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C16H18N2O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium | [Pd] | Pd
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | dihydrolysergol | OC[C@H]1CN(C)[C@@H]2CC3CNC4=CC=CC(C2=C1)=C34 | C16H20N2O
